US06515027B1
a) N,N-dicyclohexyl-2-methoxy-5-nitro-phenoxyacetamide
A solution of 2-methoxy-5-nitro-phenoxyacetyl chloride (0.22 g, 0.9 mmol), prepared from 2-methoxy-5-nitro-phenoxyacetic acid (Brown et al., J. Chem. Soc. 1955, 3681) and thionyl chloride, in dichloromethane (10 mL) was added to a mixture of dicyclohexylamine (0.16 g, 0.9 mmol) and diisopropylethylamine (0.23 g, 1.76 mmol) in dichloromethane (20 mL), maintained at RT for 16 h, washed with water (2×20 mL), dried (Na2SO4), and concentrated in vacuo. The residue was recrystallized from methanol to afford the title compound (0.16 g).

reactant | 2-methoxy-5-nitro-phenoxyacetyl chloride | 0.9 mmol, 0.22 g | COC1=C(OCC(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C9H8ClNO5
reactant | 2-methoxy-5-nitro-phenoxyacetic acid | COC1=C(OCC(=O)O)C=C(C=C1)[N+](=O)[O-] | C9H9NO6
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dicyclohexylamine | 0.9 mmol, 0.16 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | diisopropylethylamine | 1.76 mmol, 0.23 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N,N-dicyclohexyl-2-methoxy-5-nitro-phenoxyacetamide | 0.16 g | C1(CCCCC1)N(C(COC1=C(C=CC(=C1)[N+](=O)[O-])OC)=O)C1CCCCC1 | C21H30N2O5
